US05468742
0.9 g of ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-8-vinyl-3-quinolinecarboxylate is refluxed for 4 hours in a mixture of 8 ml of glacial acetic acid, 0.6 ml of water and 0.2 ml of concentrated sulphuric acid. At reflux temperature, the reaction mixture is then treated with 10 ml of water. The solid is filtered off with suction at room temperature, washed with water and dried. 0.58 g of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-8-vinyl-3-quinolinecarboxylic acid (71% of theory) is obtained.

reactant | ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-8-vinyl-3-quinolinecarboxylate | 0.9 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C=C)F)F)=O)C(=O)OCC | C17H15F2NO3
reactant | water | 0.6 ml | O | H2O
reactant | sulphuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 10 ml | O | H2O
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-8-vinyl-3-quinolinecarboxylic acid | 0.58 g, 71% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C=C)F)F)=O)C(=O)O | C15H11F2NO3
